US08198466B2
Preparation of 2-Methyl-7-hydroxy-3-(3,4,5-trimethoxybenzoyl)-6-methoxybenzofuran
To a stirred solution of 2-Bromo-7-acetoxy-3-(3,4,5-trimethoxybenzoyl)-6-methoxybenzofuran (20 mg, 0.042 mmol), methyl-boronic acid (40 mg, 0.67 mmol), in 1,4-dioxane (2 mL) at 90° C. was added tetiakis-triphenylphosphine palladium (11 mg, 0.01 mmol) followed by the addition of a solution of sodium bicarbonate (40 mg, 0.48 mmol) in distilled water (0.5 mL). The reaction mixture turned red after 5 minutes. After 2 hours (tlc) the reaction mixture was brought to room temperature and was added saturated ammonium chloride (2 mL) and diluted with dichloromethane (20 mL). The organic layer was separated and washed with water, dried over magnesium sulfate and the solvent was removed by distillation under vacuum. The residue was purified by PTLC (eluent=Dichloromethane/Methanol, 1:1) to give the title compound (actate cleaved during reaction) as a fluffy white solid; (3 mg, 19%).

reactant | 2-Bromo-7-acetoxy-3-(3,4,5-trimethoxybenzoyl)-6-methoxybenzofuran | 0.042 mmol, 20 mg | BrC=1OC2=C(C1C(C1=CC(=C(C(=C1)OC)OC)OC)=O)C=CC(=C2OC(C)=O)OC | C21H19BrO8
reactant | methyl-boronic acid | 0.67 mmol, 40 mg | CB(O)O | CH5BO2
reactant | sodium bicarbonate | 0.48 mmol, 40 mg | C([O-])(O)=O.[Na+]
reactant | ammonium chloride | 2 mL | [Cl-].[NH4+]
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.5 mL | O | H2O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2-Methyl-7-hydroxy-3-(3,4,5-trimethoxybenzoyl)-6-methoxybenzofuran | CC=1OC2=C(C1C(C1=CC(=C(C(=C1)OC)OC)OC)=O)C=CC(=C2O)OC | C20H20O7
